US07115611B2
F] Chlorosulfurous acid 2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethyl Ester
A cooled (0° C.) solution of 0.40 g (1.20 mmol) of [2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-yl]-methanol in 12 ml dichloromethane was treated with 0.10 ml (1.32 mmol) thionylchloride and stirred for 30 min at RT. The reaction was cooled (0° C.), treated with 0.08 ml (1.08 mmol) thionylchloride and stirred for 30 min at RT. The solution was evaporated, dissolved in ether and twice in heptane and evaporated to give 0.44 g of the title compound as an off-white powder.

reactant | [2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-yl]-methanol | 1.20 mmol, 0.40 g | FC(OC1=CC=C(C=C1)C1=NC=C(C(=N1)C(F)(F)F)CO)(F)F | C13H8F6N2O2
reactant | thionylchloride | 1.32 mmol, 0.10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thionylchloride | 1.08 mmol, 0.08 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | Chlorosulfurous acid 2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethyl Ester | 0.44 g | FC(OC1=CC=C(C=C1)C1=NC=C(C(=N1)C(F)(F)F)COS(=O)Cl)(F)F | C13H7ClF6N2O3S
